US08685980B2
Following General Procedure D, 7-cyclopentyl-2-(1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (63 mg, 0.15 mmol) and 2-bromo ethanol (90 mg, 0.72 mmol) to give 7-cyclopentyl-2-[1′-(2-hydroxy-ethyl)-1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (37 mg, 53%). MS (ESI) m/z 478.3 (M+H)+

reactant | 7-cyclopentyl-2-(1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.15 mmol, 63 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=CC=C(C=N2)C2CCNCC2)N1C1CCCC1)C | C24H31N7O
reactant | 2-bromo ethanol | 0.72 mmol, 90 mg | BrCCO | C2H5BrO
product | 7-cyclopentyl-2-[1′-(2-hydroxy-ethyl)-1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 37 mg, 53% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=CC=C(C=N2)C2CCN(CC2)CCO)N1C1CCCC1)C | C26H35N7O2
